US07442708B2
Benzyl 2-{{[2-(dibutylamino)ethyl]sulphonyl}-2-methoxy-4-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]anilino}acetate
125 mg (0.906 mmol) of potassium carbonate are added to 400 mg (0.755 mmol) of 2-(dibutylamino)-N-{2-methoxy-4-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]phenyl}-1-ethanesulphonamide, a compound of Example 207, in solution in 10 ml of dimethylformamide, followed by 142 μl (0.906 mmol) of benzyl bromoacetate, and the medium is heated at 60° C. for 1 hour. The reaction medium is poured over water and ethyl acetate.

reactant | potassium carbonate | 0.906 mmol, 125 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(dibutylamino)-N-{2-methoxy-4-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]phenyl}-1-ethanesulphonamide | 0.755 mmol, 400 mg | C(CCC)N(CCS(=O)(=O)NC1=C(C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)OC)C)OC)CCCC | C28H39N3O5S
reactant | benzyl bromoacetate | 0.906 mmol, 142 μl | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl 2-{{[2-(dibutylamino)ethyl]sulphonyl}-2-methoxy-4-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]anilino}acetate | C(CCC)N(CCS(=O)(=O)N(C1=C(C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)OC)C)OC)CC(=O)OCC1=CC=CC=C1)CCCC | C37H47N3O7S
